US05409930
A mixture of 800 mg (2.94 mmol) of 2-methoxy-5-trimethylstannylpyridine, 994 mg (2.94 mmol) of 6,7-dimethoxyquinolin-3-yl trifluoromethane sulfonate, 374 mg (8.82 mmol) of anhydrous lithium chloride and 170 mg (0.147 mmol) of Pd(PPh3)4 in 15 mL of anhydrous dioxane is flushed thoroughly with nitrogen and refluxed for 6 hours. The mixture is diluted with ethyl acetate (100 mL), washed with saturated NaHCO3 (75 mL), dried (Na2SO4) and evaporated. The resulting residue is chromatographed on silica gel (eluting with chloroform) to give a solid material which is recrystallized from ethyl acetate to give 3-(2-methoxypyrid-5-yl)-6,7-dimethoxyquinoline (m.p. 170.5°-171.5° C.).

reactant | 2-methoxy-5-trimethylstannylpyridine | 2.94 mmol, 800 mg | COC1=NC=C(C=C1)[Sn](C)(C)C
reactant | 6,7-dimethoxyquinolin-3-yl trifluoromethane sulfonate | 2.94 mmol, 994 mg | FC(S(=O)(=O)OC=1C=NC2=CC(=C(C=C2C1)OC)OC)(F)F | C12H10F3NO5S
reactant | lithium chloride | 8.82 mmol, 374 mg | [Cl-].[Li+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.147 mmol, 170 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-methoxypyrid-5-yl)-6,7-dimethoxyquinoline | COC1=NC=C(C=C1)C=1C=NC2=CC(=C(C=C2C1)OC)OC | C17H16N2O3
